* Testcase 000970 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVB0 VB0 0 DC 0.9900000000000001 AC 0.5
VVB1 VB1 0 0.54
VLABEL_NET_2 LABEL_NET_2 0 0.9

* Circuit
XMP22 VO VB0 N1 VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XMN22 VO VB1 N3 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XMN21 N0 GND N3 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XMN1 N3 VON GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
CC1 VOP GND 1p
CI VO GND 1p
XMP21 N4 VDD N1 VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XMP1 N1 VOP VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM2 N0 N0 N4 VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
CC2 VON GND 1p
CS GND GND 1p
XM1 N4 LABEL_NET_2 N0 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

ac dec 100 1 10g
let vout_mag = vm(VO)
let gain_db = db(vout_mag)
let dc_gain_db = gain_db[0]
print dc_gain_db

if dc_gain_db > 0
    meas ac ugbw WHEN gain_db=0 CROSS=1
end

quit
.endc

.end
